US06630509B2
(b) Methyl N-iso-Butyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosinate
2-[4-(Methoxymethyl)phenyl]ethanol (0.6 g, 3.61 mmol) and methyl N-isobutyryltyrosinate (1.15 g, 4.34 mmol) were mixed in dichloromethane (20 ml, dry). 1,1′-(Azodicarbonyl)dipiperidine (1.1 g, 4.36 mmol) and triphenylphosphine (1.14 g, 4.35 mmol) were then added respectively. The mixture was stirred at room temperature overnight and filtered. The filtrate was evaporated in vacuum to dry. Column chromatography of the residue on silica gel using ethyl acetate/heptane (gradient 5:95 to 50:50) as eluant gave 0.71 g desired product, yield 48%.

reactant | 2-[4-(Methoxymethyl)phenyl]ethanol | 3.61 mmol, 0.6 g | COCC1=CC=C(C=C1)CCO | C10H14O2
reactant | methyl N-isobutyryltyrosinate | 4.34 mmol, 1.15 g | C(C(C)C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C14H19NO4
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 4.36 mmol, 1.1 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | triphenylphosphine | 4.35 mmol, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl N-iso-Butyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosinate | 0.71 g, yield 48% | C(C(C)C)(=O)N[C@@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)COC)C(=O)OC | C24H31NO5
